US07163940B2
A solution of 2-(4-fluorophenyl)-3,7-bis(2-fluoropyridin-4-yl)pyrazolo[1,5-α]pyridine (34 mg, 0.08 mmol) in 1,3-diaminopropane (1 mL) was heated at 150° C. for 0.25 hours. Upon cooling to room temperature, the mixture was concentrated in vacuo and the residue was triturated with hot ethyl acetate. The resulting solids were collected on filter, washed with ethyl ether and dried to provide N-{4-[3-{2-[(3-aminopropyl)amino]pyridin-4-yl}-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-yl]pyridin-2-yl}propane-1,3-diamine as a light yellow powder (19 mg, 46%). 1H NMR (CD3OD): δ 8.18 (d, 1H), 8.03 (d, 1H), 7.78 (d, 1H), 7.65 (dd, 2H), 7.45 (dd, 1H), 7.30 (s, 1H), 7.1–7.2 (m, 4H), 6.60 (s, 1H), 6.59 (d, 1H), 3.55 (t, 2H), 3.47 (t, 2H), 3.0 (q, 4H), 1.88–2.04 (m, 4H); MS m/z 511 (M+1).

reactant | 2-(4-fluorophenyl)-3,7-bis(2-fluoropyridin-4-yl)pyrazolo[1,5-α]pyridine | 0.08 mmol, 34 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2C2=CC(=NC=C2)F)=C1C1=CC(=NC=C1)F | C23H13F3N4
reactant | 1,3-diaminopropane | 1 mL | NCCCN | C3H10N2
product | N-{4-[3-{2-[(3-aminopropyl)amino]pyridin-4-yl}-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-yl]pyridin-2-yl}propane-1,3-diamine | 19 mg, 46% | NCCCNC1=NC=CC(=C1)C=1C(=NN2C1C=CC=C2C2=CC(=NC=C2)NCCCN)C2=CC=C(C=C2)F | C29H31FN8
